US06953793B2
B. 4-[5-Chloro-2-(2,2-dimethoxy-ethyl)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester.
To a stirred solution of 2 g of 5-chloro-2-(2,2-dimethoxy-ethyl)-phenylamine, (9.27 mmol) in 50 mL of acetic acid was added 3.7 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (18.5 mmol). The reaction mixture was allowed to stir for 1 h at room temperature before the portion wise addition of 5.9 g of sodium triacetoxyborohydride (27.9 mmol). The reaction mixture was allowed to stir an additional 5 h before removing the solvent under reduced pressure. The crude product was partitioned between CH2Cl2 (250 mL) and water. The aqueous layer was further extracted with CH2Cl2 (2×75 mL). The combined organic layers were then washed with 1 N NaOH (2×50 mL), brine, dried over Na2SO4, and concentrated. Purification by chromatography (silica, 10-25% EtOAc/hexanes) afforded 1.5 g (71%) of desired product. TLC (silica, 35% EtOAc/hexanes): Rf=0.49. MS (electrospray): exact mass calculated for C20H31ClN2O4, 398.20. m/z found, 399.2 [M+H]+. 1H NMR (CDCl3, 400 MHz): 6.94 (d, J=7.83 Hz, 1H), 6.61 (dd, J=7.83, 2.02 Hz, 1H), 6.57 (d, J=2.02 Hz, 1H), 4.87 (br s, 1H), 4.40 (t, J=5.31 Hz, 1H), 3.97 (br m, 2H), 3.36 (s, 6H), 3.02 (m, 2H), 2.78 (d, J=5.05 Hz, 2H), 2.00 (m, 2H), 1.47 (s, 9H), 1.37 (m, 2H).

reactant | 5-chloro-2-(2,2-dimethoxy-ethyl)-phenylamine | 9.27 mmol, 2 g | ClC=1C=CC(=C(C1)N)CC(OC)OC | C10H14ClNO2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 18.5 mmol, 3.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 27.9 mmol, 5.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-[5-Chloro-2-(2,2-dimethoxy-ethyl)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.5 g, 71% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC(=C1)Cl)CC(OC)OC | C20H31ClN2O4
